US08580794B2
(1R,4S)-methyl spiro[bicyclo[2.2.1]heptane-2,2′-[1,3]dioxolane]-5-carboxylate
A reaction mixture of 1,4-dioxaspiro[4.4]non-6-ene (5 g), methyl acrylate (10.24 g), and hydroquinone (0.13 g) was heated at 100° C. in acetonitrile (12 mL) for three days. After cooling, the solvent was removed, and residue was purified by flash chromatography on silica gel eluting with 4:1 hexane/ethyl acetate to provide the title compound as a mixture of two isomers.

reactant | 1,4-dioxaspiro[4.4]non-6-ene | 5 g | O1CCOC12C=CCC2 | C7H10O2
reactant | methyl acrylate | 10.24 g | C(C=C)(=O)OC | C4H6O2
reactant | hydroquinone | 0.13 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | (1R,4S)-methyl spiro[bicyclo[2.2.1]heptane-2,2′-[1,3]dioxolane]-5-carboxylate | O1C2(OCC1)[C@H]1CC([C@H](C2)C1)C(=O)OC | C11H16O4
